data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,5307,"CC[NH2:1].C[CH:2]=[N+:3](C)C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1748,"BrC1=C(C2OCC[O+:1]2[H:2])C=C2OCOC2=C1.C1=CC=[N:3]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5663,"OC1([OH+:1][H:2])CCCCO1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8686,"C1=CC=[N:1]C=C1.O=C(O)CC[O+:2](S(=O)Cl)[H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1881,"BrC(Br)Br.Br[P+:1](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=CC=C(C=CC[O-:2])C=C1.C1CCOC1|(2, 1)"
train,pmechdb_split_0,0,3546,"C=C(C)[N:1]1CCCC1.C=CC(=O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,3287,"[CH2+:1][S-:2]|(2, 1)"
train,pmechdb_split_0,0,9093,"BrCCC[S:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2524,"C1=C[CH:1]([Li:2])C=C1.CC1=CC=CC(C)=C1OCCCCC[CH2:3][Br:4]|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6979,"O[C:1](CCCC[OH:2])=[OH+:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,8003,"C=C(Br)CC1OC1C(CC(=C)C(C)COCC1=CC=C(OC)C=C1)[OH+:1][B-:2](F)(F)F.CC[O+](CC)[Si](C)(C)C.[OH-]|((2, 1), 1)"
train,pmechdb_split_0,0,9569,"CC[O-:1].C[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,5926,"C[C+:1]=O.FC(F)(F)C1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,2104,"CCNC(CC)[N:1](C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4902,"C[O+]([B-](C)(C)C)[Si-:1](C)(C)(C)[CH:2]=[C+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,3368,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.ClC1=CC(C2OCC[O+:1]2[H:2])=CC=C1.[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,8743,"CC(=O)[CH2:1][Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5756,"C1=CC=C([P:1](C2=CC=CC=C2)C2=CC=CC=C2)C=C1.CCOC(=O)C[N-][N+:2]#[N:3].O|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9775,"CCOC(C)(O)[N:1](CC)CC.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2056,"CC(C)(C)[O-:1].CC1=CC=C(S(=O)(=O)OC23CCC(C)(CC2)C([O:2][H:3])C3)C=C1.[K+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,7522,"C[C:1](C1=CC=C(I)C=C1)=[O:2].IC1=CC=C([C:3](=[CH2:4])[O-:5])C=C1|(5, 3);((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,8993,"O=[S+:1](=O)O.O[C:2]1=[CH:3][CH:4]=[CH:5]C=C1|((2, 3), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8891,"CC(CC1[C:1]2(CCOCC2)[S+:2]1C1=CC=CC=C1)[OH:3].CC1=CC=C(S(=O)(=O)[O-])C=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7838,"CC[NH:1]CC.C[CH:2]=[NH+:3]C|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3418,"O=C(Cl)C(=O)[O:1][C:2]1(Cl)CC[C:3]([OH:4])=[CH:5]1|(4, 3);((3, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7509,"C[O:1]C.C[Si:2](C)(C)F|(1, 2)"
train,pmechdb_split_0,0,4424,"C[C:1]([O:2][B-]1([O+:3]=[CH:4]C)C2CCCC1CCC2)=[CH:5]C|(2, 1);((1, 5), 4);((4, 3), 3)"
train,pmechdb_split_0,0,7507,"CS[CH:1]([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,5255,"C1=CC=NC=C1.CC(=O)OC12CCCCC1C1(O)C2CCCC1[OH:1].C[S:2](=O)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,7637,"NC(=C([N+](=O)[O-])[N+](=O)[O-])[NH:1]C(=O)O.O=C=O.O=S(=O)(O)[O:2][H:3].O=[N+]([O-])C[N+](=O)[O-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2656,"C[P:1](C)C.[BH3:2]|(1, 2)"
train,pmechdb_split_0,0,9650,"Cl[P:1](Cl)Cl.[CH3][Li:2]|(1, 2)"
train,pmechdb_split_0,0,7733,"COC1=CC(I)=C(CCN(C)C(=O)OC(C)(C)C)C=C1[O:1]C.[AlH3:2]|(1, 2)"
train,pmechdb_split_0,0,1247,"C[CH:1](C1=CC=CC=C1)[Br:2].[OH-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8433,"CC[O-:1].CN(C)C(=O)[CH:2]([H:3])[C:4](CC1=CC=CC=C1)=[O:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,1120,"CC1=CC=C([S:1](=O)(Cl)=[O:2])C=C1.CC=CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4697,"[Li][P:1](C)(C)(Cl)[Cl:2]|((1, 2), 2)"
train,pmechdb_split_0,0,6060,"CC12CCC(O)CC1CCC1C2CCC2(C)C1CC[C:1]2([OH2+:2])[O:3]CCO.CS(=O)(=O)[O-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4142,"CC1(C)CC2C3CCC(C3)[C:1](=[O+:2]C)CCC21.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1830,"CC(C)[O-].CCC1CC(CC(C)C)CC[C:1]1([H:2])[O:3][Al-]([O]C(C)C)([O]C(C)C)[O+:4]=[C:5](C)C|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,4156,"C[C+:1]=O.O=[N+]([O-])C1=CO[CH:2]=[CH:3]1|((3, 2), 1)"
train,pmechdb_split_0,0,1893,"CC(=O)[O-:1].O.O=C(O)C[NH+:2]=[C:3](C1=CC=CC=C1)[CH:4](CC(=O)C1=CC=CO1)[H:5]|(1, 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,3020,"CC(C)(C)[CH:1]=[CH2:2].[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,9911,"CO[C:1]1=[CH:2]C=CC=C1Br.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1807,"CC(C)C(C1=CC=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3448,"CC1CCC(C(C)C)C(C=CC(C)(N=[C:1]=[O:2])C(C)C)C1.CC[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1404,"C1C[NH+:1]([H:2])CCO1.C=CC1=CC2=C(C=C1)C(N1CCOCC1)([O:3][Ti-]([Cl])([Cl])([Cl])[Cl])CCO2|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7641,"C[C:1](Cl)=[O:2].[Li][Cu:3]([C]1=CC=CC=C1)[C:4]1=CC=CC=C1|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7332,"CS[C:1](C)([OH2+:2])[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,7296,"C[S:1]C.[I:2][I:3]|(1, 2);((2, 3), 3)"
